US05576335
4-methoxy-2-nitroaniline (1.68 g), 3,5-di-t-butyl-4-hydroxybenzoic acid (2.50 g) and dicyclohexylcarbodiimide (2.06 g) were stirred in dichloromethane (12 ml) at room temperature for 6 days. After filtering off the insolubles and distilling off the solvent, the residue was purified by a silica gel column chromatography (hexane:ethyl acetate=20:1) and crystallized from hexane-ethyl acetate to give N-(4-methoxy-2-nitrophenyl-3,5-di-t-butyl-4-hydroxybenzamide (1.56 g, 39%).

reactant | 4-methoxy-2-nitroaniline | 1.68 g | COC1=CC(=C(N)C=C1)[N+](=O)[O-] | C7H8N2O3
reactant | 3,5-di-t-butyl-4-hydroxybenzoic acid | 2.50 g | C(C)(C)(C)C=1C=C(C(=O)O)C=C(C1O)C(C)(C)C | C15H22O3
reactant | dicyclohexylcarbodiimide | 2.06 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 12 ml | ClCCl | CH2Cl2
product | 4-methoxy-2-nitrophenyl-3,5-di-t-butyl-4-hydroxybenzamide | 1.56 g, 39% | COC1=CC(=C(C=C1)C1=C(C(=O)N)C=C(C(=C1C(C)(C)C)O)C(C)(C)C)[N+](=O)[O-] | C22H28N2O5
